US05102895
(2) Synthesis of 4-benzyloxy-2,3-dihydroxy-2-methylbutyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate
8.6 g (0.013 mol) of 4-benzyloxy-2,3-epoxy-2-methylbutyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate, 150 ml of tetrahydrofuran and 30 ml of water were mixed together. To the obtained mixture was slowly added dropwise a solution of 7 ml of 60% perchloric acid in 20 ml of water under ice-cooling and stirring. After the completion of the addition, the mixture was further stirred at the same temperature for 4 hours and then poured into water. After confirming that no peroxide remained therein with potassium iodide starch paper, the mixture was extracted with ether. The extract was washed with water and dried. After distilling off the solvent, the obtained oily residue was purified by column chromatography (silica gel, benzene:ethyl acetate=8:2). Thus 4.8 g of the title compound was obtained as a pale yellow, viscous liquid.

reactant | 4-benzyloxy-2,3-epoxy-2-methylbutyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate | 0.013 mol, 8.6 g | C(OCC1(C(COCC2=CC=CC=C2)O1)C)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C42H64O6
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | perchloric acid | 7 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | water | 20 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 4-benzyloxy-2,3-dihydroxy-2-methylbutyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate | 4.8 g | C(OCC(C(COCC1=CC=CC=C1)O)(C)O)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C42H66O7
